US08242260B2
To a round bottom flask containing 3-bromo-2,6-difluorobenzoic acid (5 g, 21.1 mmol) under nitrogen with a condenser was added toluene (35 mL) and t-BuOH (35 mL). To this solution was added DIEA (4.4 ml, 25.3 mmol) and DPPA (5.7 mL, 26.4 mmol). The reaction mixture was heated to 111° C. in an oil bath for 48 hours. The reaction was allowed to cool to room temperature and the volatiles were removed in vacuo. The resulting residue was suspended with water and extracted with EtOAc. The organic phase was washed with water, brine, dried (Na2SO4), filtered and concentrated onto silica. Purification by flash chromatography (SiO2; 0-100% EtOAc in heptane) afforded 3.49 g (54%) of tert-butyl 3-bromo-2,6-difluorophenylcarbamate: 1H NMR (400 MHz, DMSO-d6) δ 1.34-1.54 (m, 9H) 7.17 (m, 1H) 7.63 (ddd, J=8.9, 7.9, 5.9 Hz, 1H).

reactant | 3-bromo-2,6-difluorobenzoic acid | 21.1 mmol, 5 g | BrC=1C(=C(C(=O)O)C(=CC1)F)F | C7H3BrF2O2
reactant | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
reactant | DIEA | 25.3 mmol, 4.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | DPPA | 26.4 mmol, 5.7 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | t-BuOH | 35 mL | CC(C)(C)O | C4H10O
product | tert-butyl 3-bromo-2,6-difluorophenylcarbamate | 3.49 g, 54% | BrC=1C(=C(C(=CC1)F)NC(OC(C)(C)C)=O)F | C11H12BrF2NO2
